US05968962
(S)-(-)-N-[[2-Oxo-3-[4-[1-[(acetoxy)acetyl]-3,6-dihydro-2H-pyridin-4-yl]phenyl]-5-oxazolidinyl]methyl]acetamide
Following the general procedure of EXAMPLE 18, and making non-critical variations but substituting (S)-(-)-N-[[2-oxo-3-[4-(3,6-dihydro-2H-pyridin-4-yl)phenyl]-5-oxazolidinyl]methyl]acetamide (EXAMPLE 58) for (S)-(-)-N-[[2-oxo-3-[4-(4-piperidinyl)phenyl]-5-oxazolidinyl]methyl]acetamide and acetoxyacetyl chloride for benzyloxyacetyl chloride, the title compound is obtained, HRMS calcd for C21H25N3O6 : 415.1743. Found 415.1752.

reactant | (S)-(-)-N-[[2-oxo-3-[4-(4-piperidinyl)phenyl]-5-oxazolidinyl]methyl]acetamide | O=C1O[C@H](CN1C1=CC=C(C=C1)C1CCNCC1)CNC(C)=O | C17H23N3O3
reactant | acetoxyacetyl chloride | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | benzyloxyacetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
product | (S)-(-)-N-[[2-Oxo-3-[4-[1-[(acetoxy)acetyl]-3,6-dihydro-2H-pyridin-4-yl]phenyl]-5-oxazolidinyl]methyl]acetamide | O=C1O[C@H](CN1C1=CC=C(C=C1)C=1CCN(CC1)C(COC(C)=O)=O)CNC(C)=O | C21H25N3O6
